US07981903B2
To a solution of 4-fluoro-2-(methyloxy)-1-nitrobenzene (1 g, 5.8 mmol) in 20 mL of anhydrous DMF was added 3-(4-methyl-1-piperazinyl)-1-propanol (1.2 g, 7.59 mmol). Sodium hydride (60%) (467 mg, 11.68 mmol) was added portionwise and the reaction was stirred at rt for 90 min at which time it was quenched with a solution of saturated NH4Cl (5 mL) and most of the DMF was removed under reduced pressure. The residue was diluted with ethyl acetate and washed with a minimum amount of water and a saturated sodium chloride solution, dried over Na2SO4 and filtered. Solvents were removed under reduced pressure to give 1-methyl-4-(3-{[3-(methyloxy)-4-nitrophenyl]oxy}propyl)piperazine as a yellow solid (1.8 g total isolated, some residual DMF in product) (ESIMS (M+H)+=311)

reactant | 4-fluoro-2-(methyloxy)-1-nitrobenzene | 5.8 mmol, 1 g | FC1=CC(=C(C=C1)[N+](=O)[O-])OC | C7H6FNO3
reactant | 3-(4-methyl-1-piperazinyl)-1-propanol | 7.59 mmol, 1.2 g | CN1CCN(CC1)CCCO | C8H18N2O
reactant | Sodium hydride | 11.68 mmol, 467 mg | [H-].[Na+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 1-methyl-4-(3-{[3-(methyloxy)-4-nitrophenyl]oxy}propyl)piperazine | CN1CCN(CC1)CCCOC1=CC(=C(C=C1)[N+](=O)[O-])OC | C15H23N3O4
